Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain and anxiety
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of severe gastritis (documented by EGD ___ 
showing friable mucosa) presenting with vomiting and epigastric 
abdominal pain in the context of severe social stressors.

The patient has a long history of abdominal pain that began at 
age ___. She reports that this episode began 2 weeks ago at the 
same time that her estranged mother ___ came to ___ and 
did not meet with the patient or her baby. Over the past 4 days, 
she had intermittent vomiting relieved only by marijuana 
smoking. This morning, she woke up and had 2x emesis at 5 a.m. 
this morning with worsening abdominal pain and diminishing 
appetite. Her epigastric pain is located directly under the 
xyphoid, sometimes radiates to the throat, is ___ in 
severity, crampy in quality. She denies blood in emesis or 
stool. She denies any other drug use or ingestions. No diarrhea.

The patient had an EGD in ___, which showed friable 
mucosa consistent with severe gastritis with bleeding even on 
slightest touch.

Per OMR, patient was admitted to ___ in ___ with 
nausea/vomiting and severe epigastric pain days in the context 
of pregnany. She was treated with a number of medications 
including antiemetics, PPI, H2 blocker, maalox, and PRN 
morphine, but her abdominal pain persisted. Her basic labs were 
normal. GI saw her, she had a normal RUQ ultrasound and 
abdominal/pelvic MRI, and H.pylori was negative. At one point, a 
stat psychiatric consultation was called as the patient was very 
agitated with chest pain and sense of doom, and she got Ativan 
TID PRN likely due to anxiety/panic/depression. She was later 
seen by ___ of ___ who revealed very limited social 
supports.

In the ED was vomitting so was given apparently 6mg of IV ativan 
cumulatively, and presented to the floor unresponsive except for 
sternal rub. A trigger was called for marked nursing concern. 
Initially the patient was planned with transfer to the MICU for 
airway protection as she was vomitting and unresponsive, but 
eventually during an unsuccesful attempt at a NGT placement, she 
became more awake, and actively fought the placement. Since that 
time she was able to maintain her airway safely, and so the 
transfer was cancelled. She is giving a slightly unclear history 
of exactly what has been happening over the last several days.

In the ED, initial vitals: 97.3 96 136/83 18 100% RA 

Vitals prior to transfer: 98.0 70 130/70 16 100% 
 
Past Medical History:
- Severe gastritis
  - ___ neg  
  - ___ GI consult
  - ___ US: GB sludge, no cholecystitis or gallstones  
  - ___ abd/pelvis: no pathology  
  - ___ -> c/w severe gastritis; nl biopsies
- Psych: panic/anxiety/depression. seen by psychiatry during 
admissions, recommended klonopin (longer acting than ativan) and
SSRI with Haldol PRN. Diagnosed with adjustment doirsorder w/ 
anxiety. 

PSH: SAB X 2 requiring D&C 
 
Social History:
___
Family History:
___ out of 14 children, has 9 brothers and 4 sisters, Unable to 
recall other items at this time.
 
Physical Exam:
On admission:
VS: 99.5 ___ 12 100%
General: Overweight woman lying in bed, lethargic, only 
arousable with sternal rub, vomiting in bin
HEENT: PEERL, scleral anicteric
Neck: Not
CV: RRR, nl S1-S2, no M/R/G
Lungs: CTAB
Abdomen: Obese, soft, non-distended, pain IMPROVES in epigastric 
area on palpation
GU: No gross blood
Ext: Warm, well-perfused, good DP pulses
Neuro: Initially extremely sedated and arousable only by pain or 
loud voices, then became alert and oriented x3.
Psych: Denies SI/HI.

On discharge:
VS: 99.3 ___ 96-100% on RA
General: Overweight woman lying in bed, lethargic, 
intermittently agitated
HEENT: PEERL, scleral anicteric
Neck: Not
CV: RRR, nl S1-S2, no M/R/G
Lungs: CTAB
Abdomen: Obese, soft, non-distended, pain IMPROVES in epigastric 
area on palpation
Ext: Warm, well-perfused, good DP pulses
Psych: Intermittently alert and agitated. Denies SI/HI.
 
Pertinent Results:
___ 08:12AM BLOOD WBC-10.3 RBC-4.91# Hgb-14.3# Hct-42.3# 
MCV-86 MCH-29.1 MCHC-33.8 RDW-14.3 Plt ___
___ 08:12AM BLOOD Neuts-57.4 ___ Monos-7.4 Eos-0.5 
Baso-1.2
___ 08:12AM BLOOD Glucose-120* UreaN-12 Creat-0.9 Na-141 
K-3.9 Cl-108 HCO3-19* AnGap-18
___ 08:12AM BLOOD ALT-22 AST-22 AlkPhos-119* TotBili-1.0
___ 08:12AM BLOOD Lipase-20
___ 08:12AM BLOOD Albumin-4.___SSESSMENT & PLAN:    
___ with history of multiple admissions for abdominal pain 
(severe gastritis documented by EGD ___ showing friable 
mucosa) and anxiety/adjustment disorder presenting with vomiting 
and epigastric abdominal pain in the context of new social 
stressors.

# Vomiting and abdominal pain: She has a long history of severe 
gastritis with many prior admissions for abdominal pain and 
extensive work-up including EGD in ___ showing severe 
gastritis, negative for H. pylori in ___, negative MRI 
___ ___, negative CT ___ ___, and multiple RUQ 
ultrasounds. This admission seemed to be at least partially 
exacerbated by her recent family stressors. She did have 3x 
scant hematemesis while on the floor, but her vitals remained 
stable with normal crit; we presumed small ___ tear 
and communicated with GI in case a future consult was needed. In 
addition to a chronic gastritis exacerbation, we considered 
other causes of her abdominal pain including ectopic (negative 
HCG), PID (no fever, no adnexal tenderness), menstrual pain (not 
having menses), ulcer (negative H. pylori serologies in past), 
cholecystitis (no fever, no RUQ pain), pancreatitis (nl lipase), 
renal colic (pain is epigastric radiating upwards), and we 
concluded her pain was likely a combination of her 
acute-on-chronic gastritis and anxiety/adjustment as in her 
previous admissions. Her pain was intermittent with dramatic 
exacerbations punctuated by intervals of painlessness. She 
continued to report excruciating epigastric abdominal pain 
despite an aggressive regimen including protonix, maalox, tums, 
sucralfate, zophran, promethazine, and prochloperazine, 
ranatidine, and acetaminophen PR and IV. Throughout the 
admission, her abdominal exam remained completely benign, and 
her reported pain actually decreased when we examined epigastric 
region. On ___, she was deemed medically safe for discharge.

# Anxiety and agitation: Per OMR, patient has a history of 
depression, anxiety, and panic attacks. Psych consulted, thinks 
distress intolerance manifested by behavioral dysregulation, 
heightened by separation from her social supports and daughter, 
and a sense of lack of control in the hospital setting. No 
evidence of a primary psychotic disorder or major mood episode. 
Similar to prior admissions, her behavior consisted of thrashing 
in bed, pulling off clothes, cuddling with her cousin in bed, 
tearing apart a pillow, yelling out for her mother, and 
threatening to come to the nurses station naked. Her nurse 
overheard her yelling, "I just want to die," and she was given 
Zydis, placed on 1:1, and ___ overnight ___. She 
was unsectioned in the morning per psych, deemed to be no risk 
by SW and psych, and discharged home for outpatient follow-up.

# Sedation. In the ED was vomitting so was given 6mg of IV 
ativan cumulatively, and presented to the floor unresponsive 
except for sternal rub. A trigger was called for marked nursing 
concern. Initially the patient was planned with transfer to the 
MICU for airway protection as she was vomitting and 
unresponsive, but eventually during an unsuccesful attempt at a 
NGT placement, she became more awake, and actively fought the 
placement. Since that time she was able to maintain her airway 
safely, and so the transfer was cancelled. After her recovery, 
her vitals remained stable until her discharge.

TRANSITIONAL ISSUES:
- We considered this admission to result from an acute 
exacerbation of chronic gastritis in the setting of psychosocial 
stressors.
- She was place on a 1:1 sitter as she would not speak to 
psychiatry after saying she wished to die. The sitter was 
discontinued after she later denied having any SI/HI.
- For her gastritis, we started her own omeprazole and 
ranitidine.
- For her nausea and vomiting, we discharged gave her Zophran.
- We encouraged her to follow-up with her PCP for both primary 
health care and referral to providers to help her with her 
psychosocial and coping skills.
 
Medications on Admission:
1. Ondansetron 4 mg PO Q8H:PRN nausea or vomiting 
2. Pantoprazole 40 mg PO Q24H 
3. Sucralfate 1 gm PO TID 
 
Discharge Medications:
1. Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*0
2. Ondansetron 4 mg PO Q8H:PRN nausea or vomiting 
RX *ondansetron [ZOFRAN ODT] 4 mg 1 tablet,disintegrating(s) by 
mouth every eight (8) hours Disp #*30 Tablet Refills:*0
3. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth twice a day Disp #*60 Capsule Refills:*0
4. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain
vomiting
anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you here at ___. You came to 
the hospital on ___ with nausea and vomiting. During the 
hospital stay, you had some anxiety as well. We think your 
abdominal pain is caused by chronic gastritis, and is made worse 
by the stress in your life.

When you leave the hospital, we are giving you medications to 
help with your gastritis. 

We urge you to see a primary doctor, so your care can be 
coordinated in the future.

We wish you the best of luck with your continued care. 
 
Followup Instructions:
___